US04609730
To a solution of benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate (syn isomer) (2.2 g) in methanol (11 ml) was added conc. hydrochloric acid (0.72 ml) and the resulting mixture was stirred at ambient temperature for 3 hours. To the reaction mixture were added water and ethyl acetate, the mixture was adjusted to pH 7.0 with saturated aqueous sodium bicarbonate, the separated organic layer was washed with brine, dried over magnesium sulfate. The solution was evaporated in vacuo to give benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)-acetamido]-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate (syn isomer) (1.98 g).

reactant | benzhydryl 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate | 2.2 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C(Cl)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C29H23Cl2N5O6S2
reactant | hydrochloric acid | 0.72 ml | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 11 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)-acetamido]-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate | 1.98 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C(Cl)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C28H23Cl2N5O5S2
